US09085583B2
To a solution of (R)-2-chloro-6-methyl-7-(1-phenylethyl)-7H-pyrrolo[2,3-d]pyrimidine-5-carboxylic acid (100 mg, 0.32 mmol) in dichloromethane (10 mL) was added with 1-hydroxybenzotriazole (65 mg, 0.48 mmol), 1-Ethyl-3-(3-dimethylaminopropyl)ethyl-carbodiimide hydrochloride (92 mg, 0.48 mmol) and triethylamine (97 mg, 0.96 mmol). After stirred for 30 minutes, 3-(aminomethyl)-4,6-dimethylpyridin-2-ol (49 mg, 0.32 mmol) was added and the reaction mixture was stirred at room temperature for 12 hours. The solution was concentrated, diluted with water (20 mL), extracted with ethyl acetate (20 mL). The organic layers were separated, combined, dried over anhydrous sodium sulfate, filtered and concentrated to give a residue. The residue was purified by column chromatography (silica gel, dichloromethane/methanol=20:1) to afford (R)-2-chloro-N-((2-hydroxy-4,6-dimethylpyridin-3-yl)methyl)-6-methyl-7-(1-phenylethyl)-7H-pyrrolo[2,3-d]pyrimidine-5-carboxamide (100 mg, 70%). LRMS (M+H+) m/z: calcd 449.16. found 449.

reactant | (R)-2-chloro-6-methyl-7-(1-phenylethyl)-7H-pyrrolo[2,3-d]pyrimidine-5-carboxylic acid | 0.32 mmol, 100 mg | ClC=1N=CC2=C(N1)N(C(=C2C(=O)O)C)[C@H](C)C2=CC=CC=C2 | C16H14ClN3O2
reactant | 1-hydroxybenzotriazole | 0.48 mmol, 65 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-Ethyl-3-(3-dimethylaminopropyl)ethyl-carbodiimide hydrochloride | 0.48 mmol, 92 mg | Cl.C(C)C(C)N=C=NCCCN(C)C
reactant | triethylamine | 0.96 mmol, 97 mg | C(C)N(CC)CC | C6H15N
reactant | 3-(aminomethyl)-4,6-dimethylpyridin-2-ol | 0.32 mmol, 49 mg | NCC=1C(=NC(=CC1C)C)O | C8H12N2O
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | (R)-2-chloro-N-((2-hydroxy-4,6-dimethylpyridin-3-yl)methyl)-6-methyl-7-(1-phenylethyl)-7H-pyrrolo[2,3-d]pyrimidine-5-carboxamide | 100 mg, 70% | ClC=1N=CC2=C(N1)N(C(=C2C(=O)NCC=2C(=NC(=CC2C)C)O)C)[C@H](C)C2=CC=CC=C2 | C24H24ClN5O2
